sram_write gate implementation

.INCLUDE '22nm_MGK.pm'
.include sram_write.sub
.PARAM supply = 1.1
.global gnd
.temp 25

Vdd node_vdd gnd 'SUPPLY'

V_v1 node_v1 gnd DC 0

x1 node_v1 node_v2 node_vdd gnd sram_write

.DC V_v1 0 1.1 0.0001 
.control
run
set color0 = rgb:f/f/e
set color1 = black
plot v(node_v2) vs v(node_v1) 

.endc
.end

